Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
Lumbar Puncture

 
History of Present Illness:
___ is a ___ year-old morbidly obese man with a long
list of chronic medical conditions (see below) who presents with
___ headache. The headache has been constant for nine days. It
has not responded to a long list of medications given at two
different outside hospitals for presumed migraine HA disorder.
The headache started rather suddenly nine days ago while he was
at an OSH for cardiac and GI workup for chest/epigastric pain.
This workup (at ___) was negative for PE with negative D-dimer,
negative for acute MI with negative troponins -- although
pulmonary hypertension and LVH were evident on echo -- and
positive for GERD / gastric erosions on EGD, treated 
successfully
by starting a PPI and metoclopromide. They were unable to
alleviate his headache despite attempted Tx with BDZ, narcotics,
aspirin, Fioricet, toradol, DHE, Zofran, and Imitrex. He was
discharged to home with a prescription for zolmitriptan 1.25mg
q2h PRN (in addition to the PPI and Reglan), which did not help,
and he returned to another OSH ED (___) for treatment of the
HA. They were unable to Dx or treat his HA effectively either. 
At
some point, an MRI was attempted in an outside facility with an
open/large-bore MRI, but his body habitus (almost 500 lbs)
prevented it.

His headache is throbbing and pounding in quality. The location
of the headache was initially in his mid-forehead, but soon 
after
extended back through primarily the left side of his head (it
does not extend as far as the right temple) and it extends back
to his neck. He says at times it feels like someone is pouding
his spine with a hammer. There is definite photophobia and mild
phonophobia and, interestingly, blurred vision which during the
examination below, the patient described as pulsatile. There has
been some nausea, no vomiting, but this does not seem to bother
him as much as the pain, photophobia, and blurred vision. There
is nothing that seems to make the HA go away, not even
temporarily. He is still able to sleep, and it does not seem to
awaken him from sleep, but it is present whenever he is awake. 
IV
opiate medication (Dilaudid 1mg) "takes the edge off" from ___
to ___ without actually diminishing the throbbing sensation,
photophobia, and pulsatile blurred vision. Besides the visual
symptoms listed above, he does not endorse any associated
Neurologic deficits or changes (see ROS below).

He said that before this 9-day headache, he can only recall one
or two headaches over the past ___ years, and neither was
anything near as severe as this. The only prolonged or severe
headache he had was around the age of ___, lasted several days,
didn't respond to OTC analgesics, and was a/w severe nausea and
several episodes of vomiting before it stopped. Thus, he does
have a history suspicious for migraine headache disorder, even 
if
it has not recurred in ___ years.

ROS:
On neuro ROS, the pt denies diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech recently (says
generically he has experienced episodes of word-finding
difficulty in the past, but does not know the contex). Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies incoordination.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies current chest pain or
tightness, palpitations.  Denies vomiting, diarrhea, 
constipation
or abdominal pain. No recent change in bowel or bladder habits. 
No dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
1. Morbid obesity (420 lbs prior to recent stay in Rehab --> 490
lbs now; recent attempt with ?8lbs weight loss; desire for
bariatric surgery)
2. HTN
3. HL
4. OSA on BiPAP at night
5. DM2 on Byetta (exenatide) and metformin
6. Mood/anxiety disorder on BDZ
7. remote h/o suicide attempt ___
8. Asthma/COPD on steroid controller and PRN albuterol
9. chronic LBP on oxy/oxy
10. reported h/o MRSA+ nasal swab at OSH in ___
11. reported h/o cellulitis in bilateral LEs and abdominal wall
12. h/o Left foot surgically-repaired Fx
13. ?reported h/o heart failure, with OSH echo 2wk ago noting 
60%
EF, pulmonary hypertension, concentric LVH, and mild valvular
disease -- note that pt is on Lasix 80mg qWk for ___
14. Erectile dysfunction on Cialis
15. h/o surgical hernia repair

 
Social History:
___
Family History:
**Significant for several (four?) maternal uncles who have died
in their late-___ or ___ of confirmed or presumed cardiac causes
(d. ___ ; ___ s/p CABG @___ ; ___ ; ___ s/p CABG @___), a
few with CAD s/p CABG prior to death. Mother is alive, but
morbidly obese as well, with multiple medical complications. Dad
is alive and relatively more healthy.

 
Physical Exam:
Vital signs at triage:
98.8F   80   183/93 (140-160/50-70 at OSH ED)
RR 16  SaO2 95% 2L NC (90% RA)

General: Awake, cooperative, NAD. Wearing Bipap nasal mask. c/o
headache. Morbidly obese body habitus. Several tattoos on all
extremities.
HEENT: Poorly ___ hair/beard. Normocephalic and atraumatic. No
scleral icterus. Mucous membranes are moist. No lesions noted in
oropharynx.
Neck: Obese and short. Supple, with full range of motion and no
nuchal rigidity. No carotid bruits appreciated. No
lymphadenopathy was appreciated.
Pulmonary: Lungs CTA bilaterally. Non-labored breathing, calmly
with BiPAP. Gynecomastia.
Cardiac: RRR, distant HS.
Abdomen: Obese, large pannus with striae. Non-tender and
non-distended.
Extremities: Warm and well-perfused. R>L 2+ pitting ___ to
mid-shin. ___ radial, ___ DP pulses symmetric.
Skin: several tattoos of varying level of sophistication.

*****************
Neurologic examination:

Mental Status exam: Grossly normal, cognitively intact.
Awake and alert spontaneously. Oriented to person, year, month,
date, day of week, season, city, location, reason for treatment.
Able to relate history without difficulty. Attentive, and able 
to
name ___ back through ___, including # of terms for each
___. Speech was not dysarthric. Repetition was intact. 
Language
is fluent with intact repetition and comprehension, normal
prosody, and normal affect. There were no paraphasic errors.
Naming is intact. There was no evidence of apraxia or neglect or
ideomotor apraxia. Calculation was intact (answers seven 
quarters
in $1.75, albeit slowly).

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL, 3 to 2mm and brisk. Central/foveal visual acuity is 
at
least ___ in each eye, uncorrected (as tested at bedside by
iPhone Snellen chart), although the patient noted pulsatile
visual blurring that obscured his view somewhat in sync with the
pounding sensations in his head.
**Visual fields are grossly restricted peripherally in all
quadrants.
**Fundoscopic examination was limited by patient eye movements /
blinking (photophobic HA); I was unable to appreciate either
venous pulsations or sharp/normal optic disc margins; in fact,
the disc margins may have been a bit blurred bilaterally, but I
cannot state this with certainty. I did not appreciate any
arterial nicking or hemorrhages or retinal discolorations.
III, IV, VI: EOMs full with no nystagmus. No saccadic intrusion
during smooth pursuits. Normal saccades.
V: Facial sensation intact and subjectively symmetric to light
touch V1-V2-V3.
VII: No ptosis, no flattening of either nasolabial fold. Brow
elevation is symmetric. Eye closure is strong and symmetric.
Normal, symmetric facial elevation with smile.
VIII: Hearing is intact to finger-rub bilaterally. Pt. said
finger-rub was louder on the Left, but that may have been due to
interference from loud BiPAP machine on the right.
IX, X: Palate elevates symmetrically.
XI: ___ equal strength in trapezii and SCM bilaterally.
XII: Tongue protrusion is midline.

-Motor:
No pronator drift, and no parietal up-drift bilaterally.
No tremor or fasciculations were observed. No asterixis.
Difficult to appreciate muscle bulk due to thick overlying fat.
Tone seemed normal. No flaccidity, hypertonicity, or spasticity
noted.

 Delt Bic Tri  WE  FF  FE IO |  IP   Q   ___  ___  ___
L  5-  5-  5-   5-  ___    4+   5    5    5   5     5
R  ___    ___  5    4+   5    5    5   5     5
Two notes:
- the "5-" denotes full strenght of the LUE, but not quite as
strong as "my strong arm" on the Right.
- the "4+" IPs I think were more limited by body angle and
habitus (heavy pannus atop thighs) rather than actual weakness.

-Sensory:
No gross deficits to light touch, pinprick, cold sensation, or
vibratory sensation in either distal lower extremity. 
Eyes-closed
Finger-to-nose testing revealed no proprioceptive deficit (did
not miss nose).

-Reflex examination (left; right):
Biceps (++;++)
Triceps  (++;++)
Brachioradialis (++;++)
Quadriceps / patellar (+;+)
___ / achilles (++;++)
Plantar response was indeterminate bilaterally (strong 
withdrawal
response; toes may have been up-going, moreso on Right, but it 
is
not definite).

-Coordination:
Finger-nose-finger testing with no dysmetria or intention 
tremor.
No dysdiadochokinesia noted on rapid-alternating hand movements
or toe-tapping.

-Gait:
Deferred (morbidly obese pt. in ED bed on BiPAP at ___.

 
Pertinent Results:
___ 09:30AM CEREBROSPINAL FLUID (CSF)  PROTEIN-40 
GLUCOSE-94
___ 09:30AM CEREBROSPINAL FLUID (CSF)  WBC-3 RBC-8* POLYS-0 
___ ___ 04:50AM URINE  bnzodzpn-NEG barbitrt-POS opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 02:07AM   K+-4.2
___ 02:00AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-7.0 
LEUK-NEG
___ 01:55AM   GLUCOSE-145* UREA N-10 CREAT-0.7 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-99 TOTAL CO2-32 ANION GAP-14
___ 01:55AM   CRP-43.5*
___ 01:55AM   WBC-15.9* RBC-4.43* HGB-12.1* HCT-37.2* 
MCV-84 MCH-27.4 MCHC-32.7 RDW-15.9*
___ 01:55AM   NEUTS-73.9* ___ MONOS-4.4 EOS-2.8 
BASOS-0.5
___ 01:55AM   PLT COUNT-258
___ 01:55AM   ___ PTT-22.0 ___
___ 01:55AM   SED RATE-35*
 
Brief Hospital Course:
Mr. ___ was admitted to the neurology service on ___ 
with subacute headache which worsened over the course of 10 days 
to a severe pounding headache.  He had an LP which showed that 
he did not have a meningitis. Unfortunately, an opening pressure 
could not be obtained as an LP could not be done in the lateral 
decubitus position because of technical reasons, and could not 
be done in the interventional radiology fluoroscopy suite.  He 
had a CT head with vessel imaging (CTA/CTV) which did not show 
any abnormalities or evidence of  venous sinus thrombosis.  He 
was treated for presumed status migrainous with Medrol taper.  
He also received a Magnesium infusion. He initially improved, 
but then had more severe headache as well as visual symptoms.  A 
fundoscopic examination was limited as he could not tolerate it, 
however there was no optic disk abnormalities seen.  An LP was 
attempted on the floor but was unsuccessful.  For technical 
reasons related to his body weight and size, the LP could not be 
done in the interventional radiology suite with fluoroscopic 
guidance. Because we could not obtain an opening pressure and 
because symptoms did not completely improve and idiopathic 
intracranial hypertension could not be excluded, a decision was 
made to initiate empiric treatment with Acetazolamide for 
increased intracranial pressure (pseudotumor cerebri). 
Corresponding to this possibility was some blurring in the 
inferior nasal field of the left eye. His headache did improve 
after starting this.  He was also given muscle relaxants to 
treat a muscle spasm component to his pain, which was evident on 
palpation.

He was continued on all other home medications including his 
standing oxycontin and prn oxycodone for chronic backpain.  His 
Metformin was held as he received contrast, but was reinitiated 
upon discharge.  Blood sugars were monitored and he was 
maintained on a sliding insulin scale.  

We recommend limiting analgesics, avoiding nicotine, and formal 
visual field testing.  If headaches persist or worsen, chronic 
pain medications such as Amitriptyline or Topamax could be 
considered.

We would also recommend that weight loss measures, including 
possible bariatric surgery, be expedited to minimize the risk of 
permanent visual compromise.  A letter was given to Mr. ___ to 
this effect. 
 
Medications on Admission:
Medications:
1. Simvastatin 80mg qhs
2. Zetia 10mg daily
3. Lasix 80mg qweekly
4. Advair 500/50 bid
5. metformin 1000mg bid
6. Byetta (exenatide) s.c. 10mcg bid
7. Aspirin 81mg daily
8. Albuterol nebs q4h PRN
9. Albuterol HFA inh ___ puffs q4h PRN
10. MVI daily
11. Cialis 10mg PRN
12. Oxycontin, dose uncertain for LBP
13. Oxycodone 30mg q6h PRN for LBP

 
Discharge Medications:
1. simvastatin 40 mg Tablet Sig: Two (2) Tablet PO QHS (once a 
day (at bedtime)).  
2. Zetia 10 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Lasix 80 mg Tablet Sig: One (1) Tablet PO once a week.  
4. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
5. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
6. Byetta 10 mcg/0.04 mL Pen Injector Sig: One (1)  Subcutaneous 
twice a day.  
7. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for SOB.  
9. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours) as 
needed for SOB.  
10. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. oxycodone 40 mg Tablet Extended Release 12 hr Sig: Three (3) 
Tablet Extended Release 12 hr PO Q12H (every 12 hours) as needed 
for chronic pain (home medication/dose).  
12. miconazole nitrate 2 % Cream Sig: One (1) Appl Topical BID 
(2 times a day).
Disp:*1 tube* Refills:*2*
13. miconazole nitrate 2 % Powder Sig: One (1) Appl Topical TID 
(3 times a day) as needed for yeast infection.  
14. cyclobenzaprine 10 mg Tablet Sig: 0.5 Tablet PO TID (3 times 
a day) as needed for muscle spasm.
Disp:*30 Tablet(s)* Refills:*0*
15. oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6 
hours) as needed for low back pain.  
16. acetazolamide 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).
Disp:*60 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Status migrainosus

 
Discharge Condition:
We feel that there is a field cut in the left nasal visual 
field.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ neurology service with severe 
headache for 9 days that did not respond to multiple 
medications.  You had a lumbar puncture in the emergency room 
and your spinal fluid was negative for meningitis. You had a 
head CT scan with vessel imaging which did not show any clots.  
You were started on high dose oral steroids to treat presumed 
"status migrainous" which is a persistent migraine headache.  
You were also given a magnesium infusion to help improve your 
headache. It also seems that you had a muscle spasm component to 
your pain, which can be relieved with hot packs. 

Because of your visual symptoms, and your risk of "pseudotumor 
cerebri," you were started Acetazolamide for presumed increased 
intracranial pressure.  

You will require labs prior to your appointment in the Neurology 
Clinic.  You will also need to see Ophthalmology for formal 
visual field testing. This has been arranged for you.  If you 
would like this to be done in ___, you can call your 
PCP to help you coordinate these tests.  

Weight loss will be a very important component to help improve 
your symptoms. We have provided you with a letter expressing our 
concerns about this diagnosis to help have your bariatric 
surgical evaluation expedited.
 
Followup Instructions:
___